*****************************************************************
* NXP BUK7Y4R8-60E
*
* Polarity N-Channel
* Ratings 60V/4.800000E-003OHMS/100A
*
* Date Created Tue Feb 05 02:56:35 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y4R8-60E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.4e-10
RLS2 SOURCE 8 1.10584061406361
RLS1 8 7 0.00017

RDS 7 4 60000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00197692582166511 TC=0.0155349145239083,-3.43436443540108E-05
RBD 9 4 0.000660812539526216 TC=0.0155349145239083,-3.43436443540108E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 3.40351951761557e-09
RG 1 2 2.16835376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	2228.77
+ -16	2227.36
+ -10	2222.78
+ -5	2202.73
+ -4	2146.72
+ -3	3667
+ -2	3150.18
+ -1	2593.19
+ -0.5	2151.54
+ -0.2	1799.15
+ -0.1	1682.46
+ 0	1518.546
+ 0.1	1257.388
+ 0.2	1097.86
+ 0.5	855.817
+ 1	724.068
+ 2	589.607
+ 3	514.903
+ 4	473.522
+ 5	447.707
+ 6	428.7
+ 8	402.587
+ 10	383.446
+ 12	367.977
+ 15	349.54
+ 20	325.341
+ 25	307.209
+ 30	293.596
+ 50	265.454



.MODEL MINT NMOS(Vto=3.6288211696913 Kp=2.407039e+002 Nfs=640000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=1.6854950671188e-12
+ N=1 M=0.54 VJ=0.5 Fc=0.5 Cjo=2.138135e-09 Tt=3.3530625e-08)

.ENDS

